US07253286B2
N6-(2-Methoxyethyl)-4-(4-((cyclopropylamino)carbonyl)amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxamide
4-(4-((Cyclopropylamino)carbonyl)amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxylic acid (30 mg, 0.0736 mmol) and 2-methoxyethylamine (0.0123 ml) were used for reaction in the same manner as Example 458, and after purification by NH silica gel column chromatography (ethyl acetate:methanol=10:1), the obtained crystals were suspended in acetone:diethyl ether=1:5, filtered out, washed with diethyl ether and dried by aspiration to obtain the title compound (17 mg, 0.0366 mmol, 49.73%) as light yellow crystals.

reactant | 4-(4-((Cyclopropylamino)carbonyl)amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxylic acid | 0.0736 mmol, 30 mg | C1(CC1)NC(=O)NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=C1)C | C22H21N3O5
reactant | 2-methoxyethylamine | 0.0123 ml | COCCN | C3H9NO
product | N6-(2-Methoxyethyl)-4-(4-((cyclopropylamino)carbonyl)amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxamide | 0.0366 mmol, 17 mg, 49.73% | COCCNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1CC1)C | C25H28N4O5
